US05068340
4.400 g of 1-O-hexadecyl-2-O-(3-isoxazolyl)-3-O-triphenylmethyl-sn-glycerol described in Preparation 4 was dissolved in a mixture of 10 ml of tetrahydrofuran and 90 ml of ethanol and the solution was placed in a Paar apparatus and then shaken in the presence of 4.40 g of 10% w/w palladium-on-carbon in an atmosphere of hydrogen at 4 times atmospheric pressure for 49 hours. After removing the catalyst by filtration, 0.635 g of potassium carbonate was added to the reaction mixture, and the mixture was stirred at room temperature for 30 minutes. After filtering off the insoluble material, the solvent was distilled off and the residue was subjected to column chromatography through 100 g of silica gel. 3.327 g of 1-O-hexadecyl-3-O-triphenylmethyl-sn-glycerol was obtained from the fractions eluted with mixtures of hexane and diethyl ether ranging from 19:1 to 9:1 by volume, as white crystals melting at 49°-50° C.

reactant | 1-O-hexadecyl-2-O-(3-isoxazolyl)-3-O-triphenylmethyl-sn-glycerol | 4.400 g | C(CCCCCCCCCCCCCCC)OC[C@@H](OC1=NOC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H55NO4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1-O-hexadecyl-3-O-triphenylmethyl-sn-glycerol | 3.327 g | C(CCCCCCCCCCCCCCC)OC[C@@H](O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H54O3
